US07253286B2
tert-Butyl 4-((((4-(3-chloro-4-(((cyclopropylamino)carbonyl)amino)phenoxy)-7-methoxy-6-quinolyl)carbonyl)amino)methyl)-1-piperidinecarboxylate
4-(3-Chloro-4-(((cyclopropylamino)carbonyl)amino)phenoxy)7-methoxy-6-quinolinecarboxylic acid) (171 mg, 0.40 mmol) was dissolved in dimethylformamide (4 ml) under a nitrogen atmosphere, and then tert-butyl 4-aminomethyl-1-piperidinecarboxylate (171 mg, 0.80 mmol), triethylamine (0.2 ml) and 1H-1,2,3-benzotriazol-1-yloxy)(tri(dimethylamino))phosphonium hexafluorophosphate (265 mg, 0.60 mmol) were added in that order at room temperature, and the mixture was stirred overnight. The reaction solution was distributed between ethyl acetate and water, and the organic layer was washed with water and saturated brine and dried over anhydrous sodium sulfate. The solvent was distilled off, the residue was suspended in ethyl acetate and diluted with hexane, and the crystals were filtered out and blow-dried to obtain the title compound (249 mg, quantitative) as white crystals.

reactant | 4-(3-Chloro-4-(((cyclopropylamino)carbonyl)amino)phenoxy)7-methoxy-6-quinolinecarboxylic acid | ClC=1C=C(OC2=CC=NC3=CC(=C(C=C23)C(=O)O)OC)C=CC1NC(=O)NC1CC1 | C21H18ClN3O5
reactant | tert-butyl 4-aminomethyl-1-piperidinecarboxylate | 0.80 mmol, 171 mg | NCC1CCN(CC1)C(=O)OC(C)(C)C | C11H22N2O2
reactant | triethylamine | 0.2 ml | C(C)N(CC)CC | C6H15N
reactant | (tri(dimethylamino))phosphonium hexafluorophosphate | 0.60 mmol, 265 mg | F[P-](F)(F)(F)(F)F.CN(C)[PH+](N(C)C)N(C)C
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-Butyl 4-((((4-(3-chloro-4-(((cyclopropylamino)carbonyl)amino)phenoxy)-7-methoxy-6-quinolyl)carbonyl)amino)methyl)-1-piperidinecarboxylate | 249 mg | ClC=1C=C(OC2=CC=NC3=CC(=C(C=C23)C(=O)NCC2CCN(CC2)C(=O)OC(C)(C)C)OC)C=CC1NC(=O)NC1CC1 | C32H38ClN5O6
